US06380387B1
A solution of N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester (1.94 mmol, 0.811 g) in dioxane (5 mL) was treated with 4.0 N (5 mL, 20 mmol) hydrochloric acid in dioxane at room temperature and the solution was stirred for 0.5 h. By this time, a light yellow precipitate slowly formed. The solids were collected by filtration and were washed with hexane to afford 412 mg (60% yield), mp 187-193° C. The mother liquour was concentrated under vacuum and the residue was triturated with dichloromethane. The combined solids, which contained some starting material, were combined and dissolved in methanol. The major portion of the methanol was evaporated and dichloromethane was added to form a precipitate. The solids were collected and dried to obtain 330 mg (48%) of 4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt (mp 187-193° C.). EI-HRMS m/e calcd for C16H19N3O4 (M+H) 318.1454, found 318.1447.

reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | 1.94 mmol, 0.811 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)=O | C21H27N3O6
reactant | hydrochloric acid | 20 mmol, 4.0 N, 5 mL | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt | 330 mg, 48% | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)=O | InChI=1S/C16H19N3O4.ClH/c1-18-9-12(14(20)19(2)16(18)22)11-6-4-10(5-7-11)8-13(17)15(21)23-3;/h4-7,9,13H,8,17H2,1-3H3;1H/t13-;/m0./s1
